Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hypotension, generalized fatigue and weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with PMH of chronic HBV,
HTN, stage II (T2aN1M0) squamous cell lung carcinoma s/p
definitive chemo/XRT completed in ___ who presents from
stress lab with hypotension as well as generalized fatigue and
weakness. He has had 1 week of worsening fatigue, generalized
weakness and mid-sternal chest pain with exertion that radiates
into the jaw. His chest pain has been present for months, but 
has
worsened in the recent past. Associated with palpitations and
dyspnea. Recent episode where he was unable to carry groceries 
up
the stairs due to chest pain. He has a history of lung ca s/p
chemo and paroxysmal afib, not on anticoagulation. Denies leg
swelling or hemoptysis.

Of note, he has been incontinent of stool over the last month.
Was previously taking magnesium in ___, which was
discontinued, but the patient continued to have loose stools.
Recent admission in ___ for pre-septal cellulitis, treated
with vancomycin and transitioned to clindamycin.

In the ED, initial vitals: T 97.5, HR 113, BP 88/55, RR 18, O2
sat 95% on RA

- Exam notable for:  Tachycardia
- Labs notable for:  D-dimer 938, proBNP 4556, WHC 14.2 w
neutrophilia, Hb 11.2
- Pt given: 1L NS, Aspirin 243
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
--In ___, the patient noted a cough that was productive
of sputum, no hemoptysis noted.  The cough worsened, and he 
ended
up going to ___ ER where he was given antibiotics and
improved.  He ended up getting a chest x-ray that was obtained 
on
___ that showed interval soft tissue fullness of the 
right
hilum.  
--A subsequent CT scan was obtained on ___ and that showed 
a
cavitary right hilar mass extending into the upper lobe, highly
suspicious for malignancy.  He was then referred here to ___
for multidisciplinary thoracic care
--___: he underwent bronchoscopy, which showed a right upper
lobe endobronchial lesion, biopsy of the lesion as well as EBUS
with TBNA of 4L, 7 and 11R were done.  He also had cauterization
of the right upper lobe endobronchial lesion.  The results from
that procedure showed that the lesion was an invasive squamous
carcinoma.  FNA of level 7 and lymph node was negative, level 4L
was negative, but 11R was positive.
--___: . Mediastinoscopy ___ with 2 level 7 and 2 4Rs
were biopsied which were negative for malignancy.  He was staged
IIa (T2aN1M0)
--___: Dr. ___ further imaging including a recent
contrast CT, which showed the proximity of the tumor to the 
right
main pulmonary artery, raising concern that he would require
pneumonectomy.  Given the patient's symptoms, poor performance
status and PFTs Dr. ___ that he might well not tolerate
that and suggested definitive chemoradiation.
--___: Started XRT
--___: C1D1 cisplatin/etoposide.  Had significant
light-headedness, a fall, and positive orthostatics throughout
the first week with ___ of 1.5.  Needed to hold D8 of
cisplatin and give a total of 5L IVF over two days.  
--___: C2D1 cis/etoposide
--___: Completed XRT 6120 cGy over 34 fractions.

PAST MEDICAL/SURGICAL HISTORY:
-Hypertension
-anxiety
-nephrolithiasis
-depression
-irritable bowel syndrome
-hep B
-prostatitis.  
-Latent TB, treated in ___ with nine months of INH.
 
Social History:
___
Family History:
His father died of an MI at age ___. He was heavy smoker and
wouldn't take his medications. 
 
Physical Exam:
========================
Admission Physical Exam:
========================
VITALS:  98.0, 116/72, 108, 16, 98%RA
General: Alert, oriented, no acute distress, pleasant 
HEENT: Sclerae anicteric, MMM, JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: Normal rectal tone. ___ strength upper/lower extremities,
grossly normal sensation 

========================
Discharge Physical Exam:
========================
VITALS: 98.4, 132/82, 100, 16, 98%RA
General: Alert, oriented, no acute distress, pleasant 
HEENT: Sclerae anicteric, dry MM, JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, mildly distended, bowel sounds
present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: ___ strength upper/lower extremities,
grossly normal sensation 

 
Pertinent Results:
===============
Admission Labs:
===============
___ 11:43AM BLOOD WBC-14.2*# RBC-4.24* Hgb-11.4* Hct-34.8* 
MCV-82 MCH-26.9 MCHC-32.8 RDW-14.4 RDWSD-42.7 Plt ___
___ 11:43AM BLOOD Neuts-85.6* Lymphs-6.4* Monos-6.4 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-12.12*# AbsLymp-0.91* 
AbsMono-0.90* AbsEos-0.08 AbsBaso-0.03
___ 11:43AM BLOOD ___ PTT-29.4 ___
___ 11:43AM BLOOD Glucose-102* UreaN-22* Creat-1.2 Na-138 
K-4.2 Cl-100 HCO3-21* AnGap-17
___ 11:43AM BLOOD ALT-15 AST-23 AlkPhos-77 TotBili-0.4
___ 11:43AM BLOOD proBNP-4556*
___ 11:43AM BLOOD cTropnT-<0.01
___ 11:41PM BLOOD cTropnT-<0.01
___ 11:43AM BLOOD Albumin-3.9
___ 11:43AM BLOOD D-Dimer-938*
___ 11:43AM BLOOD TSH-1.1
___ 11:43AM BLOOD Free T4-1.3
___ 11:43AM BLOOD Cortsol-23.5*
___ 11:53AM BLOOD Lactate-2.0
___ 01:00PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:00PM URINE Color-Yellow Appear-Hazy* Sp ___

===============
Discharge Labs:
===============
___ 09:10AM BLOOD WBC-9.2 RBC-4.00* Hgb-10.7* Hct-32.2* 
MCV-81* MCH-26.8 MCHC-33.2 RDW-14.2 RDWSD-41.2 Plt ___
___ 09:10AM BLOOD Neuts-82.9* Lymphs-7.0* Monos-7.3 Eos-1.9 
Baso-0.1 Im ___ AbsNeut-7.60* AbsLymp-0.64* AbsMono-0.67 
AbsEos-0.17 AbsBaso-0.01
___ 09:10AM BLOOD Glucose-95 UreaN-14 Creat-1.0 Na-142 
K-4.4 Cl-104 HCO3-25 AnGap-13
___ 09:10AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.0

=============
Microbiology:
=============
C. difficile DNA amplification assay (Final ___: 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative).

URINE CULTURE (Final ___:  NO GROWTH. 

Blood Culture, Routine (Pending): NGTD. 

================
Imaging studies:
================
CXR (___):
Increased perihilar fibrotic changes and right lung volume loss 
likely reflect interval evolution of posttreatment changes.

 
CTA CHEST (___):
1.  No evidence of pulmonary embolism or aortic abnormality.
2. Radiation changes are again noted in the right lower and 
middle lobes and
at the hilum, with associated scarring and traction 
bronchiectasis unchanged
in appearance from recent prior study.

TTE (___):
FINDINGS: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No aortic 
regurgitation is seen. The mitral valve appears structurally 
normal with trivial mitral regurgitation. There is no mitral 
valve prolapse. There is mild pulmonary artery systolic 
hypertension. There is a trivial/physiologic pericardial 
effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved global biventricular 
systolic function. Mild pulmonary artery systolic hypertension. 
No valvular pathology or pathologic flow identified. 

Compared with the prior study (images reviewed) of ___, 
the findings are similar. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: 

___ man with stage II (T2aN1M0) squamous cell lung 
carcinoma s/p chemo/XRT in remission, paroxysmal afib, 
presenting with hypotension, generalized weakness, and diarrhea 
found to have C. Diff colitis. 

=============
ACUTE ISSUES:
=============
# C. Diff colitis
Patient presented with diarrhea and signs of hypovolemia, 
including sinus tachycardia and orthostatic hypotension, after 
recent hospitalization for pre-septal cellulitis treated with 
clindamycin. C. Diff PCR of stool was positive. He was treated 
with PO Vancomycin 125mg QID (day 1: ___ and will continue 
treatment for 14 days upon discharge, ending ___, as well as 
probiotic. He has no prior history of C. Diff infection.

# Stable angina: 
Patient does have chest pain with exertion, which radiates into 
the neck/jaw, and resolves with rest. He does not have chest 
pain at rest and has not yet had stress testing. He was 
scheduled for outpatient stress testing on the day of admission 
which was differed ___ hypotension and tachycardia on arrival. 
He was referred to the ED at that time. During his 
hospitalization, he denies any chest pain or shortness of 
breath. We continued his home ASA, metoprolol, and simvastatin. 
TTE was repeated in the setting of BNP elevation which was 
unchanged from previous, LVEF >60%. Will plan for follow up with 
PCP to reschedule outpatient stress test.

# Dyspnea on Exertion:
BNP significantly elevated compared to last BNP on ___, 
although does not appear to be in decompensated heart failure as 
he is significantly hypovolemic on exam, without edema on CXR. 
His TTE was also unchanged from previous, LVEF >60%. His 
fibrotic lung changes are near the R pulmonary artery, which 
could be contributing to his BNP elevation. Otherwise, dyspnea 
on exertion most likely secondary to post-radiation fibrotic 
changes of his right lung and/or associated CAD/angina as above. 
Continued home Budesonide and Albuterol inhalers as needed.

# Generalized weakness/fatigue
# Weight loss
Patient reports generalized fatigue, decreased appetite, and 6 
pound weight loss over the last month. This may be secondary to 
diarrhea, although it is concerning that patient reports these 
constitutional symptoms prior to diarrhea onset. Unfortunately, 
this may suggest progression of his underlying malignancy vs. a
second malignancy. He is known to have 5.7cm renal mass on 
recent CT (___) concerning for metastasis vs. new renal cell 
carcinoma vs. renal cyst. Planned renal MRI ___ as an 
outpatient with follow up with oncology.

===============
CHRONIC ISSUES:
===============
# Squamous cell lung carcinoma: s/p chemo/XRT, currently thought
to be in remission.

# Renal mass: CT chest from ___ showed a 5.7 cm left renal 
mass substantially increased in size compared to prior exam and 
concerning for renal cell carcinoma versus metastasis. Planned 
for renal MRI on ___ as above.

# Paroxysmal afib: CHADsVAsc 3 for age and HTN. EKG on admission 
showing sinus tachycardia. Decision for anticoagulation was 
deferred originally due to risk of bleeding surgically with the 
lung mass near the pulmonary artery. Reportedly, he has only had 
one documented event of atrial fibrillation that was 
short-lived. We continued his home metoprolol Succinate XL 12.5 
mg daily during his hospitalization. If he does remain a low 
bleeding risk at this point, post chemo and radiation, may 
benefit from another discussion regarding anticoagulation. Will 
defer this to his outpatient providers.

# Depression and anxiety: Continued home clonopin and 
sertraline.

# GERD: Continued home omeprazole. 

====================
TRANSITIONAL ISSUES:
====================

[] Will need follow up with PCP to reschedule stress testing and 
discuss anticoagulation for atrial fibrillation as an outpatient

[] MEDICATIONS ADDED: 
- Vancomycin 125mg QID x 14 days ___ - ___

[] MEDICATIONS CHANGED: 
- Increased simvastatin 20mg to pravastatin 40mg, as this 
patient will likely benefit from high dose statin therapy in the 
setting of angina and presumed CAD 

[] MEDICATIONS CONTINUED: 
- ASA
- Clonopin
- Metoprolol
- Omeprazole
- Sertraline
- Budesonide
- Albuterol 

[] MEDICATIONS STOPPED: None

Advanced Care Planning: 
Full code
Contact ___ (___)

I have seen and examined Mr. ___, reviewed the findings, data, 
and discharge plan of care documented by Dr. ___, MD dated 
___ and agree, except for any additional comments below.

Day of discharge management: > 30 minutes

___, MD, PharmD
Section of ___ Medicine
___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Aspirin 81 mg PO DAILY 
2. ClonazePAM 1.5 mg PO BID:PRN anxiety 
3. Metoprolol Succinate XL 12.5 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. Sertraline 200 mg PO DAILY 
6. Simvastatin 20 mg PO QPM 
7. Budesonide 180 mcg/actuation inhalation DAILY 
8. albuterol sulfate 90 mcg inhalation Q4H:PRN Shortness of 
Breath 

 
Discharge Medications:
1.  Pravastatin 40 mg PO QPM 
RX *pravastatin 40 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO Q6H Duration: 14 Days 
RX *vancomycin 125 mg 1 capsule(s) by mouth four times a day 
Disp #*60 Capsule Refills:*0 
3.  albuterol sulfate 90 mcg inhalation Q4H:PRN Shortness of 
Breath  
4.  Aspirin 81 mg PO DAILY  
5.  Budesonide 180 mcg/actuation inhalation DAILY  
6.  ClonazePAM 1.5 mg PO BID:PRN anxiety  
7.  Metoprolol Succinate XL 12.5 mg PO DAILY  
8.  Omeprazole 20 mg PO DAILY  
9.  Sertraline 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses
==================
C. Diff colitis

Secondary diagnoses
==================
Stable angina
Squamous Cell Carcinoma
Renal mass (unclear etiology)
Paroxysmal atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
-You were admitted because you had diarrhea and were dehydrated. 
 

What happened while I was in the hospital?  
-  You were given fluids through your veins to help with your 
dehydration. 
- We also sent a sample of your stool that showed you have an 
infection called C. Diff. We started you on antibiotics to treat 
this infection. This antibiotic is called Vancomycin. You will 
need to continue to take this antibiotic four times a day until 
___. 
- We also did an ultrasound of your heart that was normal. You 
will still need to follow up with your primary care doctor to 
reschedule  a stress test once your infection resolves.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Team  
 
Followup Instructions:
___